US08865726B2
A mixture of pyrazolo[1,5-a]pyrimidin-5-ol (17.0 g, 126 mmol) in POCl3 (100 mL) was heated at reflux for 3 hours. After cooling, the reaction was concentrated under vacuum. To the residue was added dichloromethane. The organic phase was carefully washed with saturated aqueous NaHCO3 solution, dried and concentrated. The crude product was purified by passing through a short silica gel pad eluting with 50% EtOAc in hexane to give 5-chloropyrazolo[1,5-a]pyrimidine (13.1 g, 68%).

reactant | pyrazolo[1,5-a]pyrimidin-5-ol | 126 mmol, 17.0 g | N1=CC=C2N1C=CC(=N2)O | C6H5N3O
reactant | POCl3 | 100 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 5-chloropyrazolo[1,5-a]pyrimidine | 13.1 g, 68% | ClC1=NC=2N(C=C1)N=CC2 | C6H4ClN3
